* source PFE
L_L26         N00849 N00228  1nH  
L_L27         N00856 N00235  1nH  
L_L28         N00861 N00242  1nH  
L_L29         N00868 N00249  1nH  
R_R71         N00235 N00228  93.1 TC=0,0 
R_R73         N00249 N00242  93.1 TC=0,0 
C_C953         N00856 N00849  1p  TC=0,0 
C_C955         N00868 N00861  1p  TC=0,0 
C_C853         N00228 0  100pF  TC=0,0 
C_C854         N00235 0  100pF  TC=0,0 
C_C856         N00249 0  100pF  TC=0,0 
C_C855         N00242 0  100pF  TC=0,0 
R_R74         0 N01385  93.1 TC=0,0 
R_R75         0 N01389  93.1 TC=0,0 
R_R76         0 N01605  93.1 TC=0,0 
R_R77         0 N01901  93.1 TC=0,0 
R_R78         N01605 N01901  93.1 TC=0,0 
R_R79         N01385 N01389  93.1 TC=0,0 
L_L12         0 N00856  10nH  
L_L11         N01385 N00849  10nH  
Kn_K1         L_L11 L_L12     1 Kbreak
L_L21         N01605 N00861  10nH  
L_L22         0 N00868  10nH  
Kn_K2         L_L21 L_L22     1 Kbreak
C_C857         N03268 N01389  100p  TC=0,0 
C_C858         N10993 N01901  100pF  TC=0,0 
V_V5         N10917 0  AC 1
+SIN 0 3 1.6GHz 0 0 0
V_V6         N10953 0  AC 1
+SIN 0 3 1.6GHz 0 0 0
R_R474         N10937 N10929  100 Ohm TC=0,0 
C_C861         N10957 N10997  100pF  TC=0,0 
C_C862         N10953 N10993  100pF  TC=0,0 
R_R473         N10933 N10925  100 TC=0,0 
C_C860         N10921 N10989  100pF  TC=0,0 
C_C750         0 N10937  100pF  TC=0,0 
C_C753         0 N10973  100pF  TC=0,0 
C_C752         0 N10969  100pF  TC=0,0 
C_C751         0 N10933  100pF  TC=0,0 
C_C859         N10917 N03268  100pF  TC=0,0 
R_R471         N10973 N10961  100 TC=0,0 
R_R472         N10969 N10965  100 TC=0,0 
R_RU54RF1         N11632 N12316  50 TC=0,0 
R_RU54RF2         N11663 N10989  50 TC=0,0 
R_RU56RF1         N11697 N12320  50 TC=0,0 
R_RU56RF2         N11734 N10997  50 TC=0,0 
C_CU541         N11632 0  100pF  TC=0,0 
C_CU542         N11663 0  100pF  TC=0,0 
C_CU561         N11697 0  100pF  TC=0,0 
C_CU562         N11734 0  100pF  TC=0,0 
V_V11         N10925 0  AC 1
+SIN 0 0 0 0 0 0
V_V12         N10929 0  AC 1
+SIN 0 5 0 0 0 0
V_V13         N10961 0  AC 1
+SIN 0 0 0 0 0 0
V_V14         N10965 0  AC 1
+SIN 0 5 0 0 0 0
R_R475         0 N03268  1Meg TC=0,0 
R_R476         0 N10993  1Meg TC=0,0 
